US04542142
A mixture of 2 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[3-hydroxy-3-oxo-1-propynyl]-cyclopropane-carboxylate, 20 ml of methylene chloride and 0.7 ml of ethoxyethanol cooled to 0° to +5° C. was admixed with a mixture of 1.1 g of dicyclohexylcarbodiimide, 5 ml of methylene chloride and 15 mg of 4-dimethylamino-pyridine and the mixture was stirred for 1 hour at +5° C. and for 2 hours at room temperature and was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel and eluted with a 3-1 mixture of cyclohexane-ethyl acetate to obtain 1.3 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2dimethyl-3-[3-oxo-3-ethoxyethoxy-1-propynyl]-cyclopropane-carboxylate.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[3-hydroxy-3-oxo-1-propynyl]-cyclopropane-carboxylate | 2 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | ethoxyethanol | 0.7 ml | C(C)OC(C)O | C4H10O2
reactant | dicyclohexylcarbodiimide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylamino-pyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2dimethyl-3-[3-oxo-3-ethoxyethoxy-1-propynyl]-cyclopropane-carboxylate | 1.3 g | CC1([C@@H]([C@@H]1C#CC(OCCOCC)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H27NO6
